US09056859B2
Step D: 3-Methylthieno[2,3-c]furan-6-(4H)-one
In a 50 mL round bottom flask, 3-(Hydroxymethyl)-4-methylthiophene-2-carboxylic acid (440 mg, 2.56 mmol, 1.0 eq) was suspended in dichloromethane (5 mL). To above mixture was added N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (735 mg, 3.83 mmol, 1.5 eq). The reaction was stirred at r.t. for 18 hr, washed with brine and water. The organic phase was dried over MgSO4, filtered and concentrated. LC-MS (IE, m/z): 155.1 [M+1]+; 1H NMR (500 MHz, CDCl3, δ in ppm): 7.44 (1H, s), 5.14 (2H, s), 2.24 (3H, s);

reactant | 3-(Hydroxymethyl)-4-methylthiophene-2-carboxylic acid | 2.56 mmol, 440 mg, 1.0 eq | OCC1=C(SC=C1C)C(=O)O | C7H8O3S
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 3.83 mmol, 735 mg, 1.5 eq | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 3-Methylthieno[2,3-c]furan-6-(4H)-one | CC1=CSC=2C(OCC21)=O | C7H6O2S
